US09278950B2
Step 2. 4-Iodo-2,3-dihydrofuro[2,3-b]pyridine
To a solution of 2-(2-fluoro-4-iodopyridin-3-yl)ethanol (3.13 g, 11.7 mmol) in 1,4-dioxane (100 mL), K3PO4 (10.0 g, 47.1 mmol) was added. The mixture was heated under reflux for 36 h. The reaction mixture was then filtered, the filter cake was washed with EtOAc, and the combined filtrates were concentrated under reduced pressure. The residue was dissolved in DCM (100 mL), washed with brine (2×100 mL), dried over Na2SO4 and concentrated. The resulting residue of the crude sub-title compound (2.55 g) was used in the next step directly without further purification. LCMS calc. for C7H7INO (M+H)+: m/z=247.9. found 248.0.

reactant | 2-(2-fluoro-4-iodopyridin-3-yl)ethanol | 11.7 mmol, 3.13 g | FC1=NC=CC(=C1CCO)I | C7H7FINO
reactant | K3PO4 | 47.1 mmol, 10.0 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-Iodo-2,3-dihydrofuro[2,3-b]pyridine | IC1=C2C(=NC=C1)OCC2 | C7H6INO
